US05248775
A mixture of 2 g of 3-(3-tetrahydropyr-2-yloxyprop-1-yn-1-yl)-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine, 40 ml of methanol, 20 ml of chloroform, 40 mg of 5% palladium on barium sulfate, and 40 mg of synthetic quinoline is stirred under 1 atmosphere hydrogen pressure for 40 min. The solvent then is removed by evaporation and the residue diluted with methylene chloride. The methylene chloride solution is filtered through silica gel with 2% methanol in methylene chloride to remove catalyst and the filtrate then concentrated to give an oil which upon adding ether yields 3-(3-tetrahydropyr-2-yloxyprop-1-en-1-yl)-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine which can be further purified through column chromatography eluting with ethyl acetate and recrystallization using ethyl acetate.

reactant | 3-(3-tetrahydropyr-2-yloxyprop-1-yn-1-yl)-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine | 2 g | O1C(CCCC1)OCC#CN1C=NC=2C(=C1O)C=C(N2)NC(C(C)(C)C)=O | C19H24N4O4
reactant | methanol | 40 ml | CO | CH4O
reactant | quinoline | 40 mg | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on barium sulfate | 40 mg | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-tetrahydropyr-2-yloxyprop-1-en-1-yl)-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine | O1C(CCCC1)OCC=CN1C=NC=2C(=C1O)C=C(N2)NC(C(C)(C)C)=O | C19H26N4O4
